US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}-1-fluorocyclopropanecarboxamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (30 mg, 66 μmol) was dissolved in abs. pyridine (1.5 ml). At room temperature, 1-fluorocyclopropanecarbonyl chloride (20 mg, 165 μmol, 2.5 eq.) in abs. THF (1 ml) was added in two portions, and the mixture was stirred for 12 h. The reaction mixture was then concentrated under reduced pressure and directly purified by preparative HPLC (Kromasil C18 column, 5 μm, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (29.5 mg, 89% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 66 μmol, 30 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-fluorocyclopropanecarbonyl chloride | 165 μmol, 20 mg, 2.5 eq. | FC1(CC1)C(=O)Cl | C4H4ClFO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}-1-fluorocyclopropanecarboxamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(=O)C2(CC2)F)C2=CC(=CC=C2)C(F)(F)F)C | C25H17F4N7O
